US06821967B2
a. 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid-(phenethyl)-amide
Prepared analogously to Example 1 from phenethylamine and 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid chloride.

reactant | phenethylamine | C(CC1=CC=CC=C1)N | C8H11N
reactant | 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid chloride | BrCCCCC1(C2=CC=CC=C2C=2C=CC=CC12)C(=O)Cl | C18H16BrClO
product | 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid-(phenethyl)-amide | C(CC1=CC=CC=C1)NC(=O)C1(C2=CC=CC=C2C=2C=CC=CC12)CCCCBr | C26H26BrNO
